US06140332
(R)-6-Methylaminocarbonyl-4-[1-phenyl-ethylamino]-7H-pyrrolo-[2,3-d]pyrimidine
In a bomb tube, 155 mg (0.50 mmol) of 6-ethoxycarbonyl-4-[1(R)-phenyl-ethylamino]-7H-pyrrolo[2,3-d]pyrimidine and 2.5 mg (0.05 mmol) of NaCN in 4 ml of methylamine (33% in ethanol) are heated at 50° C. for 30 hours. The reaction mixture is dissolved in THF, 25 ml of water are added thereto and concentration by evaporation is carried out to a residual volume of =25 ml. The resulting crystals are filtered off and washed with water. Recrystallization from hot THF and ethyl acetate yields the title compound; HPLC: tRet (Grad20)=8.3; TLC-Rf =0.31 (CH2Cl2 /methanol [10:1]); FAB-MS: (M+H)+ =296.

reactant | 6-ethoxycarbonyl-4-[1(R)-phenyl-ethylamino]-7H-pyrrolo[2,3-d]pyrimidine | 0.50 mmol, 155 mg | C(C)OC(=O)C1=CC2=C(N=CN=C2N[C@H](C)C2=CC=CC=C2)N1 | C17H18N4O2
reactant | NaCN | 0.05 mmol, 2.5 mg | [C-]#N.[Na+]
reactant | water | 25 ml | O | H2O
solvent | methylamine | 4 ml | CN | CH5N
solvent | THF | C1CCOC1 | C4H8O
product | (R)-6-Methylaminocarbonyl-4-[1-phenyl-ethylamino]-7H-pyrrolo-[2,3-d]pyrimidine | CNC(=O)C1=CC2=C(N=CN=C2N[C@H](C)C2=CC=CC=C2)N1 | C16H17N5O
